US08212041B2
Preparation of 3-((7-methoxyquinolin-4-yloxy)methyl)-N-(2-(methylamino)ethyl)-[1,2,4]triazolo[4,3-a]pyridine-6-carboxamide
tert-Butyl 2-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridine-6-carboxamido)ethyl(methyl)carbamate was deprotected as previously described for 7-methoxy-4-((6-(1,2,3,6-tetrahydropyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)quinoline.

reactant | tert-Butyl 2-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridine-6-carboxamido)ethyl(methyl)carbamate | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1C=C(C=C2)C(=O)NCCN(C(OC(C)(C)C)=O)C | C26H30N6O5
reactant | 7-methoxy-4-((6-(1,2,3,6-tetrahydropyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)quinoline | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1C=C(C=C2)C=2CCNCC2 | C22H21N5O2
product | 3-((7-methoxyquinolin-4-yloxy)methyl)-N-(2-(methylamino)ethyl)-[1,2,4]triazolo[4,3-a]pyridine-6-carboxamide | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1C=C(C=C2)C(=O)NCCNC | C21H22N6O3
